US06057317
Step a: 4-[2-(Benzyloxycarbonyl)-ethyl]-2-ethoxycarbonyl-3,4-dihydro-2H-1,4-benzoxazine
2.3 mmol (0.9 ml) of 40% Triton B in water are added at 0° C. to 22.6 mmol (5 g) of 2-ethoxycarbonyl-3,4-dihydro-2H-1,4-benzoxazine (described in J. Heterocyclic Chem., 1985, 22, 177) and 79 mmol (12.8 g) of benzyl acrylate in 17 ml of toluene. The reaction mixture is refluxed overnight, the solvent is evaporated off and the reaction mixture is heated again for 24 hours. After cooling, hydrolysis and extraction with ethyl acetate, the organic phase is concentrated and purified by chromatography on silica gel using an ethyl acetate/petroleum ether mixture (3/7) as eluant to yield the expected compound.

reactant | 2-ethoxycarbonyl-3,4-dihydro-2H-1,4-benzoxazine | 5 g | C(C)OC(=O)C1OC2=C(NC1)C=CC=C2 | C11H13NO3
reactant | benzyl acrylate | 79 mmol, 12.8 g | C(C=C)(=O)OCC1=CC=CC=C1 | C10H10O2
solvent | water | O | H2O
solvent | toluene | 17 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(Benzyloxycarbonyl)-ethyl]-2-ethoxycarbonyl-3,4-dihydro-2H-1,4-benzoxazine | C(C1=CC=CC=C1)OC(=O)CCN1CC(OC2=C1C=CC=C2)C(=O)OCC | C21H23NO5
